US07034039B2
A suspension of 7-isobutyl-8-oxo-5-phenyl-7,8-dihydro[1,7]naphthyridine-6-carbonitrile (2.43 g, 8 mmol), Raney-cobalt (2.4 ml) and 25% aqueous ammonia (3.2 ml) in tetrahydrofuran (100 ml) was stirred under a hydrogen atmosphere at 5 atm and 60° C. for 3 h. Raney-cobalt was filtered off and the filtrate was concentrated under reduced pressure. The residue was dissolved in tetrahydrofuran (30 ml) and to the obtained solution was added di-t-butyl dicarbonate (2.3 ml, 10 mmol). The mixture was stirred at room temperature for 1 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give tert-butyl(7-isobutyl-8-oxo-5-phenyl-7,8-dihydro[1,7]naphthyridin-6-yl)methylcarbamate (0.21 g, 6.4%) as crystals.

reactant | 7-isobutyl-8-oxo-5-phenyl-7,8-dihydro[1,7]naphthyridine-6-carbonitrile | 8 mmol, 2.43 g | C(C(C)C)N1C(=C(C=2C=CC=NC2C1=O)C1=CC=CC=C1)C#N | C19H17N3O
reactant | ammonia | 3.2 ml | N | H3N
reactant | di-t-butyl dicarbonate | 10 mmol, 2.3 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | cobalt | 2.4 ml | [Co] | Co
product | tert-butyl(7-isobutyl-8-oxo-5-phenyl-7,8-dihydro[1,7]naphthyridin-6-yl)methylcarbamate | 0.21 g, 6.4% | C(C)(C)(C)OC(NCC1=C(C=2C=CC=NC2C(N1CC(C)C)=O)C1=CC=CC=C1)=O | C24H29N3O3
